US04269771
(4 R,S)-4-Vinylthio-(1-acetoxyethyl-2-ethoxycarbonyl)-2-oxo-azetidine
A mixture of (4 R,S)-4-vinylthio-(1-hydroxyethyl-2-ethoxycarbonyl)-2-oxo-azetidine (1.01 g, 4.13 mmole), acetic anhydride (1 ml, 10.6 mmole), and Et3N (0.7 ml, 5 mmole) dissolved in methylene chloride (60 ml) was allowed to stand overnight at room temperature. The reaction mixture was then washed with brine (3 times), and dried on Na2SO4. Evaporation of the solvent left a residue which, after column chromatography (SiO2, 10% ethyl acetate-benzene), yielded 950 mg (3.31 mmole, 81%) of an oily product.

reactant | (4 R,S)-4-vinylthio-(1-hydroxyethyl-2-ethoxycarbonyl)-2-oxo-azetidine | 4.13 mmole, 1.01 g | C(=C)S[C@@H]1CC(N1C(=O)OCC[C@H](C)O)=O | C10H15NO4S
reactant | acetic anhydride | 10.6 mmole, 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Et3N | 5 mmole, 0.7 ml | CCN(CC)CC | C6H15N
reactant | ethyl acetate benzene | C(C)(=O)OCC.C1=CC=CC=C1
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | (4 R,S)-4-Vinylthio-(1-acetoxyethyl-2-ethoxycarbonyl)-2-oxo-azetidine | 3.31 mmole, 950 mg, 81% | C(=C)S[C@@H]1CC(N1C(=O)OCC[C@H](C)OC(C)=O)=O | C12H17NO5S
